US09382228B2
A solution of 2,2,2-trimethylacetamide (0.090 g, 0.888 mmol) in DCE (3 mL) was treated with oxalyl chloride (0.078 mL, 0.888 mmol), stirred at RT for 1 h, then heated at 75° C. for 2 h. The mixture was cooled to RT, treated with a solution of 5-((2-(thiazol-5-yl)pyridin-4-yl)oxy)pyridin-2-amine (0.12 g, 0.444 mmol) and TEA (0.186 mL, 1.332 mmol) in THF (5 mL) and stirred at RT for 1 h. The mixture was treated with water, extracted with DCM (2×) and the combined organics were washed with brine, dried over Na2SO4, concentrated to dryness and purified via silica gel chromatography (MeOH/EtOAc) to afford N-((5-((2-(thiazol-5-yl)pyridin-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide (67 mg, 38%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 11.23 (s, 1H), 10.44 (s, 1H), 9.13 (s, 1H), 8.61 (s, 1H), 8.44 (d, J=5.8 Hz, 1H), 8.29 (d, J=2.9 Hz, 1H), 8.10 (d, J=9.0 Hz, 1H), 7.77 (dd, J=9.0, 2.9 Hz, 1H), 7.70 (d, J=2.4 Hz, 1H), 6.86 (dd, J=5.8, 2.4 Hz, 1H), 1.21 (s, 9H); MS (ESI) m/z: 398.1 (M+H+).

reactant | 2,2,2-trimethylacetamide | 0.888 mmol, 0.090 g | CC(C(=O)N)(C)C | C5H11NO
reactant | oxalyl chloride | 0.888 mmol, 0.078 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-((2-(thiazol-5-yl)pyridin-4-yl)oxy)pyridin-2-amine | 0.444 mmol, 0.12 g | S1C=NC=C1C1=NC=CC(=C1)OC=1C=CC(=NC1)N | C13H10N4OS
reactant | water | O | H2O
solvent | DCE | 3 mL | ClCCCl | C2H4Cl2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-((5-((2-(thiazol-5-yl)pyridin-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide | 67 mg, 38% | S1C=NC=C1C1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)NC(C(C)(C)C)=O | C19H19N5O3S
